US07319155B2
Preparation of (7-methoxy-(5H,9H)-6,8-dioxabenzocyclohepten-2-yl)methanol
4 g of (3,4-bis-hydroxymethylphenyl)methanol (23.8 mmol), 40 ml of 1,2-dimethoxyethane, 2.78 g of methyl orthoformate (26.2 mmol) and 0.24 g of Montmorillonite KSF (10 mg/mmol) are introduced into a flask. The reaction medium is stirred at room temperature for 4 hours 30 minutes and then the montmorillonite is filtered off and the 1,2-dimethoxyethane is evaporated under vacuum at 30° C. The residue is chromatographed on silica gel (dichloromethane/methanol=98/2) to give 3.2 g of (7-methoxy)-(5H,9H)-6,8-dioxabenzocyclohepten-2-yl)methanol in the form of an oil.

reactant | (3,4-bis-hydroxymethylphenyl)methanol | 23.8 mmol, 4 g | OCC=1C=C(C=CC1CO)CO | C9H12O3
reactant | methyl orthoformate | 26.2 mmol, 2.78 g | C(OC)([O-])[O-]
reactant | Montmorillonite KSF | 0.24 g | O.[O-2].[O-2].[O-2].O=[Si]=O.O=[Si]=O.O=[Si]=O.O=[Si]=O.[Al+3].[Al+3]
solvent | 1,2-dimethoxyethane | 40 ml | COCCOC | C4H10O2
product | (7-methoxy-(5H,9H)-6,8-dioxabenzocyclohepten-2-yl)methanol | COC1OCC2=C(CO1)C=C(C=C2)CO | C11H14O4
